US06660744B1
cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (141 mg, 0.319 mmol), 4-[(benzylamino)carbonyl]-3-methoxyphenylboronic acid (100 mg, 0.351 mmol), palladium tetrakistriphenyphosphine (22 mg, 0.019 mmol) and sodium carbonate (81 mg, 0.765 mmol) were mixed with ethylene glycol dimethyl ether (4 mL) and water (2 mL). The reaction mixture was heated at reflux overnight. Organic solvent was removed under reduced pressure and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (95:5) as mobile phase to give cis-N1-benzyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide (126 mg, 71%). 1H NMR (CDCl3) δ 1.83 (m, 6H), 2.34 (s, 3H), 2.45 (m, 11H), 4.02 (s, 3H), 4.43 (d, J=5.66 Hz, 2H), 4.95 (m, 1H), 5.52 (bs, 2H), 7.37 (m, 7H), 8.18 (m, 1H), 8.41 (m, 1H); LC/MS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min.(B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.5 mL/min.): MH+ =555.5, Rt=2.65 min.

reactant | cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.319 mmol, 141 mg | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 4-[(benzylamino)carbonyl]-3-methoxyphenylboronic acid | 0.351 mmol, 100 mg | C(C1=CC=CC=C1)NC(=O)C1=C(C=C(C=C1)B(O)O)OC | C15H16BNO4
reactant | sodium carbonate | 0.765 mmol, 81 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | cis-N1-benzyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide | 126 mg, 71% | C(C1=CC=CC=C1)NC(C1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)OC)=O | C31H38N8O2
